US04749403
33.3 g (0.10 mol) of 1-butyl-3-(4-chloro-2-fluoro-5-methoxyphenyl)-4-oxo-2-thioxoimidazolidine are dissolved in 300 ml of methanol, and 5.7 g (0.15 mol) of sodium borohydride are added at a rate such that the temperature increases to 30° C. When the addition is complete, the mixture is stirred for a further 30 minutes at 30° C. and poured into 800 ml of ice-water. The precipitate is filtered off under suction and dried. 31.8 g (95% of theory) of 1-butyl-3-(4-chloro-2-fluoro-5-methoxyphenyl)-4-hydroxyimidazolidine 2-thione are obtained in the form of colorless crystals having the melting point 137°-138° C.

reactant | 1-butyl-3-(4-chloro-2-fluoro-5-methoxyphenyl)-4-oxo-2-thioxoimidazolidine | 0.10 mol, 33.3 g | C(CCC)N1C(N(C(C1)=O)C1=C(C=C(C(=C1)OC)Cl)F)=S | C14H16ClFN2O2S
reactant | sodium borohydride | 0.15 mol, 5.7 g | [BH4-].[Na+]
solvent | methanol | 300 ml | CO | CH4O
product | 1-butyl-3-(4-chloro-2-fluoro-5-methoxyphenyl)-4-hydroxyimidazolidine 2-thione | 31.8 g, 95% | C(CCC)N1C(N(C(C1)O)C1=C(C=C(C(=C1)OC)Cl)F)=S | C14H18ClFN2O2S
